US05550130
A mixture of 4-hydroxy-3-methylacetophenone (14.5 g, 96 mmol), K2O3 (17.5 g, 144 mmol), and 1,3-dibromopropane (30 g, 144 mmol) in acetonitrile (400 ml) was heated at reflux for 6 hours. At the end of the reaction, the solvent was removed on a rotary evaporator, and the crude solid was extracted into dichloromethane (750 ml). The insoluble inorganics were filtered off. The dichloromethane solution was concentrated again to a crude oil (34.5 g). Purification was effected by flash chromatography over a silica gel column (SiO2, 150 g; eluted with 7:3 hexane:dichloromethane, 2 l; and dichloromethane 2 l). The material thus purified weighed 14.6 g (56%) and was recrystallized from ethanol. Recrystallization again from ethanol gave analytically pure 1-[4-(3-bromopropoxy)-3-methylphenyl]-ethanone, m.p.=59°-61° C.

reactant | 4-hydroxy-3-methylacetophenone | 96 mmol, 14.5 g | CC1=C(C=CC(=C1)C(=O)C)O | C9H10O2
reactant | 1,3-dibromopropane | 144 mmol, 30 g | BrCCCBr | C3H6Br2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-[4-(3-bromopropoxy)-3-methylphenyl]-ethanone | BrCCCOC1=C(C=C(C=C1)C(C)=O)C | C12H15BrO2
